US08975254B2
(S)-5-tert-butyl-N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)isoxazole-3-carboxamide was prepared using the method of Example 34(d) starting from (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile (200 mg, 0.69 mmol) and 5-tert-butylisoxazole-3-carboxylic acid (132 mg, 0.782 mmol). The product was purified by Flash-chromatography (reverse phase). Yield 53.6%. 1H-NMR (400 MHz; MeOD): δ 1.26 (d, 3H), 1.35 (s, 9H), 4.26-4.45 (m, 2H), 4.51-4.63 (m, 1H), 6.34 (s, 1H), 6.77 (d, 1H), 7.70 (d, 1H), 7.77 (dd, 1H), 7.87 (dd, 1H), 8.09 (dd, 1H).

reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 0.69 mmol, 200 mg | N[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl)C | C13H13ClN4
reactant | 5-tert-butylisoxazole-3-carboxylic acid | 0.782 mmol, 132 mg | C(C)(C)(C)C1=CC(=NO1)C(=O)O | C8H11NO3
product | (S)-5-tert-butyl-N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)isoxazole-3-carboxamide | Yield 53.6% | C(C)(C)(C)C1=CC(=NO1)C(=O)N[C@H](CN1N=C(C=C1)C1=CC(=C(C=C1)C#N)Cl)C | C21H22ClN5O2
